US07358250B2
Step D: (S)-[5-Phenyl-6-(triethylsilanyl)-7-H-pyrrolo[2,3-d]pyrimidine-4-yl]-(tetrahydrofuran-2-ylmethyl)-amine
To a slurry of 4.00 g (12.3 mmol) of 5-phenyl-6-(triethylsilyl)-7-H-pyrrolo[2,3-d]pyrimidin-4-amine, 3.10 g (16.0 mmol) of EDC and 2.50 g (18.5 mmol) of HOBt and catalytic DMAP in 20 ml DMF was added dropwise 1.91 g (14.8 mmol) of (S)-tetrahydro-2-furoic acid at 0° C. The reaction mixture was stirred at 0° C. for 1 h, then was warmed to room temperature and stirred for 30 h. Dichloromethane (500 ml) was added and the mixture was washed with brine (1×), saturated aqueous sodium bicarbonate (1×), and brine (1×). The organic layer was dried over Na2SO4 and filtered. The crude amide was dissolved in 20 ml THF and added to a solution of 700 mg (27.1 mmol) of lithium aluminum hydride in 40 ml THF at 0° C. The slurry was warmed to room temperature and stirred for 1 h, and then to 50° C. and stirred for an additional 2 h. The reaction mixture was cooled to room temperature and poured into ice water. The aqueous material was extracted with ethyl acetate (4×). The combined organic layers were washed with brine (1×), dried over Na2SO4, filtered and purified by chromatography on silica gel (EtOAc:MeOH:Et3N, 9:1:0.1) to give the title compound. 1H-NMR (400 MHz, CDCl3)δ, 0.61 (q, J=7.6 Hz, 6 H), 0.89 (t, J=7.6 Hz, 9 H), 1.48 (m, 1 H), 1.69-1.85 (m, 3 H), 3.59-3.62 (m, 4 H), 3.94 (m, 1 H), 5.03 (s, 1 H), 7.28 (m, 3 H), 7.45 (m, 2 H), 8.33 (s, 1 H), 8.68 (s, 1 H). Mass Spectrum (ESI) m/e=409.1 (M+1).

reactant | 5-phenyl-6-(triethylsilyl)-7-H-pyrrolo[2,3-d]pyrimidin-4-amine | 12.3 mmol, 4.00 g | C1(=CC=CC=C1)C1=C(NC=2N=CN=C(C21)N)[Si](CC)(CC)CC | C18H24N4Si
reactant | EDC | 16.0 mmol, 3.10 g
reactant | HOBt | 18.5 mmol, 2.50 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (S)-tetrahydro-2-furoic acid | 14.8 mmol, 1.91 g | O1[C@@H](CCC1)C(=O)O | C5H8O3
reactant | lithium aluminum hydride | 27.1 mmol, 700 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | Dichloromethane | 500 ml | ClCCl | CH2Cl2
product | (S)-[5-Phenyl-6-(triethylsilanyl)-7-H-pyrrolo[2,3-d]pyrimidine-4-yl]-(tetrahydrofuran-2-ylmethyl)-amine | C1(=CC=CC=C1)C1=C(NC=2N=CN=C(C21)NC[C@H]2OCCC2)[Si](CC)(CC)CC | C23H32N4OSi
